US04083983
Cysteamine hydrochloride (7.62 g) was added to a solution of sodium (4.70 g) in ethanol (170 cc) and the mixture was stirred and cooled to 10° and 2-chloromethyl-4-methoxypyridine hydrochloride (11.5 g) in methanol (50 cc) was added over 35 minutes, and the mixture was left overnight at room temperature. The mixture was filtered and the filtrate was evaporated to a residue which was partitioned between chloroform and water. The chloroform extract was evaporated to an oil which was crystallised from 2.1M ethanolic hydrogen chloride to give 2-(2-aminoethylthiomethyl)-4-methoxypyridine dihydrochloride (12.4 g) m.p. 172.5° (decomp).

reactant | Cysteamine hydrochloride | 7.62 g | Cl.NCCS
reactant | sodium | 4.70 g | [Na] | Na
reactant | 2-chloromethyl-4-methoxypyridine hydrochloride | 11.5 g | Cl.ClCC1=NC=CC(=C1)OC
solvent | ethanol | 170 cc | C(C)O | C2H6O
solvent | methanol | 50 cc | CO | CH4O
product | 2-(2-aminoethylthiomethyl)-4-methoxypyridine dihydrochloride | 12.4 g | Cl.Cl.NCCSCC1=NC=CC(=C1)OC | InChI=1S/C9H14N2OS.2ClH/c1-12-9-2-4-11-8(6-9)7-13-5-3-10;;/h2,4,6H,3,5,7,10H2,1H3;2*1H
